### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/Affine/AddSubMap): add the main property of addSubMap and sym2x

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This is the next PR on the way to the approximate parallelogram law on an elliptic curve.
It shows that the addition-and-subtraction map satisfies its specification: it sends `sym2x P Q` to `sym2x (P+Q) (P-Q)`, up to a nonzero scaling factor.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 1]
```diff
@@ -181,6 +191,81 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+    simp only [sym2x_some_some, succ_eq_add_one, reduceAdd, sym2x_some_zero, addSubMap, Fin.isValue]
+    ext i : 1
+    fin_cases i <;> simp [pow_two, two_mul]
+
+section Field
+
+variable {F : Type*} [Field F] [DecidableEq F] {W : Affine F}
+
+private lemma sym2x_P_add_P_zero (P : W.Point) :
+    ∃ t : F, t ≠ 0 ∧ t • sym2x (P + P) 0 = fun i ↦ (addSubMap W i).eval <| P.sym2x P := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: I guess this is private because the lemma below is strictly stronger? I think you can still make this public anyway since the second coordinate is zero? You could call it `sym2x_add_zero` or `sym2x_add_self_zero` because the `P` should not be named.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 2]
```diff
@@ -181,6 +191,81 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
 lemma sym2x_neg_right (P Q : W'.Point) : P.sym2x (-Q) = P.sym2x Q := by
   simp [sym2x]
 
+open Nat in
+private lemma sym2x_P_P_eq_addSubMap (P : W'.Point) :
+    sym2x P P = fun i ↦ (addSubMap W' i).eval <| P.sym2x 0 := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: I imagine something like this might be a bit nicer just to avoid the `= fun i =>` which looks weird:
```suggestion
    sym2x P P = (addSubMap W' \. |>.eval <| P.sym2x 0) := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 3]
```diff
@@ -181,6 +191,81 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+      refine ⟨_, den_duplication_ne_zero_or_num_duplication_ne_zero h |>.neg_resolve_left H', ?_⟩
+      simp
+    · have H' := (den_duplication_eq_zero_iff h.1).not.mpr H
+      refine ⟨_, H', ?_⟩
+      simp [sym2x_eq, xRep_add_self_of_Y_ne h H, mul_div_cancel₀ _ H']
+
+/-- `sym2x (P + Q) (P - Q)` is equal, up to scaling by a nonzero constant, to `addSubMap W`
+applied to `sym2x P Q`. -/
+lemma sym2x_add_sub_eq_addSubMap_sym2x (P Q : W.Point) :
+    ∃ t : F, t ≠ 0 ∧ t • sym2x (P + Q) (P - Q) = fun i ↦ (addSubMap W i).eval <| sym2x P Q := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Untested:
```suggestion
    ∃ t : F, t ≠ 0 ∧ t • sym2x (P + Q) (P - Q) = fun i ↦ (addSubMap W i).eval <| P.sym2x Q := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 4]
```diff
@@ -169,6 +169,16 @@ lemma sym2x_some_some {x y x' y' : R} (h : W'.Nonsingular x y) (h' : W'.Nonsingu
...
 
+/-- `sym2x` in terms of the projective `xRep` coordinates. -/
+lemma sym2x_eq (P Q : W'.Point) :
+    P.sym2x Q = ![P.xRep 0 * Q.xRep 0, P.xRep 0 * Q.xRep 1 + P.xRep 1 * Q.xRep 0,
+      P.xRep 1 * Q.xRep 1] := by
+  match P, Q with
+  | 0, 0 => simp [xRep_zero]
+  | 0, .some x y h => simp [xRep_zero, xRep_some]
+  | .some x y h, 0 => simp [xRep_zero, xRep_some]
+  | .some x y h, .some x' y' h' => simp [xRep_some]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Does something like `cases P <;> cases Q <;> simp [xRep_zero, xRep_some]` work?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 5]
```diff
@@ -181,6 +191,81 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+      refine ⟨_, H', ?_⟩
+      simp [sym2x_eq, xRep_add_self_of_Y_ne h H, mul_div_cancel₀ _ H']
+
+/-- `sym2x (P + Q) (P - Q)` is equal, up to scaling by a nonzero constant, to `addSubMap W`
+applied to `sym2x P Q`. -/
+lemma sym2x_add_sub_eq_addSubMap_sym2x (P Q : W.Point) :
+    ∃ t : F, t ≠ 0 ∧ t • sym2x (P + Q) (P - Q) = fun i ↦ (addSubMap W i).eval <| sym2x P Q := by
+  rcases eq_or_ne P Q with rfl | hPQ
+  · simpa using P.sym2x_P_add_P_zero
+  rcases eq_or_ne Q (-P) with rfl | hPQ'
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:242]: These look weird. Does `by_cases hPQ : P = Q` not work? Then you can `simpa` the `hPQ` below.

Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:242]: This pattern is quite common in Mathlib:
```text
$ git grep 'rcases eq_or_ne .* .* with rfl' | wc -l
420
```
The advantage over the `by_cases` version is that one doesn't need to use `hPQ` to do the substitution; it's done already by `rfl`.
In the end, I would consider this a matter of taste.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Both notations work, of course, and I admit that the usage is not consistent throughout the file. Here, the current version is at least consistent in both occurrences in the statement.
If I had to make it consistent, I would prefer `sym2x P Q`, I think. (Dot notation has the exact same length and looks less symmetric in a way.)

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: > I guess this is private because the lemma below is strictly stronger?

Yes (`sym2x_P_add_P_zero` is used to deal with one case in the proof):
```lean
example (P : W.Point) :
    ∃ t : F, t ≠ 0 ∧ t • sym2x (P + P) 0 = fun i ↦ (addSubMap W i).eval <| P.sym2x P := 
  sub_self P ▸ sym2x_add_sub_eq_addSubMap_sym2x P P
```
so (apart from the obvious simpification `P - P = 0`) I think there is really no particular value in making it public.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: OK; this looks better. Changing all occurrences in the file.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: I'm making the preceding `private` lemma public, though, as it is *not* a special case of the general result (it is valid over more general rings, and it is an equality on the nose, not just up to scaling).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: It does not: it leaves three goals (the ones involving at least one zero point) and claims that the `xRep_zero` `simp` argument is unused. I think the problem is that `xRep_zero` is about `0`, not `.zero`. The `match` allows to switch from `.zero` to `0`. 

But `cases P <;> cases Q <;> simp [xRep, sym2x]` does work (as in the next lemma).

**Comment by MichaelStollBayreuth** [comment]
@Multramate : anything else? Maybe you can approve the PR (you're not a reviewer (yet?) I think).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 6]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+    sym2x P P = (addSubMap W' · |>.eval <| sym2x P 0) := by
+  match P with
+  | 0 =>
+    simp only [sym2x_zero_zero, succ_eq_add_one, reduceAdd, addSubMap, Fin.isValue]
+    ext i : 1
+    fin_cases i <;> simp
+  | some .. =>
+    simp only [sym2x_some_some, succ_eq_add_one, reduceAdd, sym2x_some_zero, addSubMap, Fin.isValue]
+    ext i : 1
+    fin_cases i <;> simp [pow_two, two_mul]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Seems like you don't actually need most of the `simp` lemmas:
```suggestion
lemma sym2x_self_eq_addSubMap (P : W'.Point) :
    sym2x P P = (addSubMap W' · |>.eval <| sym2x P 0) := by
  match P with
  | 0 => ext i; fin_cases i <;> simp [addSubMap]
  | some .. => ext i; fin_cases i <;> simp [pow_two, two_mul, addSubMap]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 7]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+    ∃ t : F, t ≠ 0 ∧ t • sym2x (P + P) 0 = (addSubMap W · |>.eval <| sym2x P P) := by
+  match P with
+  | 0 =>
+    refine ⟨1, one_ne_zero, ?_⟩
+    rw [add_zero, sym2x_zero_zero, one_smul, addSubMap]
+    ext i : 1
+    fin_cases i <;> simp
+  | some x y h =>
+    have Heq := (W.equation_iff x y).mp h.1
+    have Hrs : (addSubMap W · |>.eval <| (some x y h).sym2x (some x y h)) =
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Consistent inside the lemma too, and elsewhere:
```suggestion
    have Hrs : (addSubMap W · |>.eval <| sym2x (some x y h) (some x y h)) =
```
But in any case I think we can extract this as `addSubMap_sym2x_self`

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 8]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+/- This lemma can be deduced easily from the more general result that follows (it is used in its
+proof for the special case `P = Q`), so can be private. -/
+private lemma sym2x_add_self_zero (P : W.Point) :
+    ∃ t : F, t ≠ 0 ∧ t • sym2x (P + P) 0 = (addSubMap W · |>.eval <| sym2x P P) := by
+  match P with
+  | 0 =>
+    refine ⟨1, one_ne_zero, ?_⟩
+    rw [add_zero, sym2x_zero_zero, one_smul, addSubMap]
+    ext i : 1
+    fin_cases i <;> simp
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
  | 0 => exact ⟨1, one_ne_zero, by ext i; fin_cases i <;> simp [addSubMap]⟩
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 9]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+  | some x y h =>
+    have Heq := (W.equation_iff x y).mp h.1
+    have Hrs : (addSubMap W · |>.eval <| (some x y h).sym2x (some x y h)) =
+          ![x ^ 4 - W.b₄ * x ^ 2 - 2 * W.b₆ * x - W.b₈,
+            4 * x ^ 3 + W.b₂ * x ^ 2 + 2 * W.b₄ * x + W.b₆, 0] := by
+      ext i : 1
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Every occurrence of `ext i : 1` you have seem to be replaceable by `ext i`. Is there a good reason for forcing depth 1 lemmas? Performance reasons?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 10]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+      fin_cases i <;> simp [addSubMap] <;> ring
+    rw [Hrs]
+    by_cases! H : y = W.negY x y
+    · have H' := (den_duplication_eq_zero_iff h.1).mpr H
+      rw [H', add_self_of_Y_eq H, sym2x_zero_zero]
+      refine ⟨_, den_duplication_ne_zero_or_num_duplication_ne_zero h |>.neg_resolve_left H', ?_⟩
+      simp
+    · have H' := (den_duplication_eq_zero_iff h.1).not.mpr H
+      refine ⟨_, H', ?_⟩
+      simp [sym2x_eq, xRep_add_self_of_Y_ne h H, mul_div_cancel₀ _ H']
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Optional: both the `simp`s in the next line can be brought into the previous line if you force it a bit.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 11]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+  rcases eq_or_ne Q (-P) with rfl | hPQ'
+  · simpa [sym2x_neg_right, sym2x_comm 0] using P.sym2x_add_self_zero
+  match P, Q with
+  | P, 0 =>  exact ⟨1, one_ne_zero, by simpa using P.sym2x_self_eq_addSubMap⟩
+  | 0, Q =>
+    refine ⟨1, one_ne_zero, ?_⟩
+    simpa [sym2x_neg_right, sym2x_comm _ Q] using Q.sym2x_self_eq_addSubMap
+  | some xP yP hP, some xQ yQ hQ =>
+    have hxPQ : xP ≠ xQ := fun Heq ↦ by grind only [X_eq_iff.mp Heq]
+    have Hrs : (addSubMap W · |>.eval <| (some xP yP hP).sym2x (some xQ yQ hQ)) =
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Ditto, and this can also be extracted to `addSubMap_sym2x` (without `self`).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 12]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+    ext i : 1
+    fin_cases i <;> simp
+  | some .. =>
+    simp only [sym2x_some_some, succ_eq_add_one, reduceAdd, sym2x_some_zero, addSubMap, Fin.isValue]
+    ext i : 1
+    fin_cases i <;> simp [pow_two, two_mul]
+
+section Field
+
+variable {F : Type*} [Field F] [DecidableEq F] {W : Affine F}
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Move this to the beginning like how I did for the other `Affine` files.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 13]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+      simp [sym2x_eq, xRep_add_self_of_Y_ne h H, mul_div_cancel₀ _ H']
+
+/-- `sym2x (P + Q) (P - Q)` is equal, up to scaling by a nonzero constant, to `addSubMap W`
+applied to `sym2x P Q`. -/
+lemma sym2x_add_sub_eq_addSubMap_sym2x (P Q : W.Point) :
+    ∃ t : F, t ≠ 0 ∧ t • sym2x (P + Q) (P - Q) = (addSubMap W · |>.eval <| sym2x P Q) := by
+  rcases eq_or_ne P Q with rfl | hPQ
+  · simpa using P.sym2x_add_self_zero
+  rcases eq_or_ne Q (-P) with rfl | hPQ'
+  · simpa [sym2x_neg_right, sym2x_comm 0] using P.sym2x_add_self_zero
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: I don't remember if I suggested this before, but do we want `sym2x_neg_right` to be `@[simp]`? This way we can do this:
```suggestion
  · simpa [sym2x_comm] using P.sym2x_add_self_zero
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 14]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+  match P, Q with
+  | P, 0 =>  exact ⟨1, one_ne_zero, by simpa using P.sym2x_self_eq_addSubMap⟩
+  | 0, Q =>
+    refine ⟨1, one_ne_zero, ?_⟩
+    simpa [sym2x_neg_right, sym2x_comm _ Q] using Q.sym2x_self_eq_addSubMap
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Ditto with this:
```suggestion
    simpa [sym2x_comm] using Q.sym2x_self_eq_addSubMap
```
and you can even combine it with the previous line.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 15]
```diff
@@ -181,6 +187,82 @@ lemma sym2x_neg_left (P Q : W'.Point) : (-P).sym2x Q = P.sym2x Q := by
...
+      ext i : 1
+      fin_cases i <;> simp [addSubMap]
+      ring
+    refine ⟨(xP - xQ) ^ 2, pow_ne_zero 2 (sub_ne_zero_of_ne hxPQ), ?_⟩
+    -- The following relations are needed for the `grobner` calls below.
+    have HeqP := (W.equation_iff xP yP).mp hP.1
+    have HeqQ := (W.equation_iff xQ yQ).mp hQ.1
+    rw [Hrs, sym2x_eq, xRep_add_of_X_ne hP hQ hxPQ, xRep_sub_of_X_ne hP hQ hxPQ, b₂, b₄, b₆, b₈]
+    ext i : 1
+    fin_cases i <;> simp [field] <;> grobner
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:258]: Genuine question: is `grobner` preferable to `grind` when it can, because it forces Lean to use only the Groebner basis part of `grind`? The only annoyance is that we can't add lemmas into `grobner`.

**Review by Multramate — CHANGES_REQUESTED** [review]
The PR seems easy enough, and once this is all settled I will approve, thanks!

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 9 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Clarity. (And possibly stability: in principle, it could be the case that a new `ext` lemma becomes applicable after the first round, breaking the proof.) Zulip discussion: [#mathlib4 > ext1 vs. ext @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/ext1.20vs.2E.20ext/near/579536852).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 12 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Why? These `variable`s are not needed there, but (IIUC) would be elaborated with each declaration that is in scope. So I'd argue that it is better as it is; the alternative
* is harder to read (because these variables only become relevant quite a bit further down in the file)
* and also (slightly) less efficient.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Extracted as `addSubMap_sym2x_some_self`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 13 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Added `@[simp]` to both `sym2x_neg_{left|right}`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 15 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:258]: That was my thought (it also makes clear what is used here). The performance penalty for using `grind` is minor, though:
`grobner` --> 43002 heartbeats (for the complete proof)
`grind` --> 43788
`grind  [(W.equation_iff xP yP).mp hP.1, (W.equation_iff xQ yQ).mp hQ.1]` without the `have`s --> 43363

The best solution would be to allow `gobner` (and `lia`, ...) to take additional arguments like `grind` does. Maybe I'll ask on Zulip about that.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 11 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: --> `addSubMap_sym2x_some_some`.

**Comment by MichaelStollBayreuth** [comment]
I noticed that `sym2x_eq` is actually `rfl` and so can be replaced by `sym2x` in the rewrites that used it. So I removed it.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 9 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: I see, I wasn't aware of this - thanks!

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 12 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: It's just a convention I stuck to for the files in this folder; it's not a huge deal.

**Review by Multramate — APPROVED** [review]
It's weird I can't resolve comments, but I'm happy with this now. My only other qualm is that I don't normally add comments to every lemma unless it's hard to read.

**Comment by MichaelStollBayreuth** [comment]
I've resolved the comments now. Thanks for the review!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
